US06573289B1
Production of 1-(6-Bromonaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
1-(6-Bromonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (1.0 g) and pyridine hydrochloride (390 mg) were dissolved in methanol (8 ml). The solution was stirred at 60° C. for 2 h. The solution was cooled and neutralized with saturated aqueous solution of sodium hydrogencarbonate. The solvent was distilled off and the residue was filtered and washed with ethanol. The filtrate was concentrated, and the residue was purified by silica gel column chromatography (eluent, dichloromethane:methanol=30:1→10:1), then recrystallized from ethyl acetate to give the titled compound (454 mg) as a colorless powder.

reactant | 1-(6-Bromonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 1.0 g | BrC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H31BrN2O
reactant | pyridine hydrochloride | 390 mg | Cl.N1=CC=CC=C1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 8 ml | CO | CH4O
product | 1-(6-Bromonaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 454 mg | BrC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CNC1 | C17H17BrN2O
